US09289430B2
N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-ylcarbamoyl)phenyl)isophthalamide
To a solution of 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide (50 mg, 0.12 mmol, 1.00 equiv) in dichloromethane (3 mL) was added pyridine (73 mg, 0.92 mmol, 8.00 equiv) followed by the dropwise addition of a solution of 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride (54 mg, 0.17 mmol, 1.50 equiv) in dichloromethane (2 mL) and the resulting solution was stirred for 30 min at room temperature. The mixture was diluted with 50 mL of ethyl acetate, washed with 2×20 mL of NH4Cl and 2×20 mL of brine, dried over anhydrous sodium sulfate and then concentrated under vacuum. The crude product (50 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 12 mg (10%) of a yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.34(m, 3H), 8.17(t, J=7.8 Hz, 2H), 7.73(m, 5H), 7.42 (m, 1H), 3.98(s, 2H), 3.55(m, 3H), 3.40(m, 5H), 3.29(m, 1H), 3.09(m, 3H), 1.86(d, J=4.8 Hz, 4H), 1.71(t, J=5.1 Hz, 2H). MS (ES, m/z): 705 [M+H]+.

reactant | 2-amino-5-(piperidin-1-yl)-N-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-yl)benzamide | 0.12 mmol, 50 mg, 1.00 equiv | NC1=C(C(=O)NC=2NN=C(N2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C21H21F3N6O
reactant | pyridine | 0.92 mmol, 73 mg, 8.00 equiv | N1=CC=CC=C1 | C5H5N
reactant | 3-(methyl(2-morpholinoethyl)carbamoyl)benzoyl chloride | 0.17 mmol, 54 mg, 1.50 equiv | CN(C(=O)C=1C=C(C(=O)Cl)C=CC1)CCN1CCOCC1 | C15H19ClN2O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N1-methyl-N1-(2-morpholinoethyl)-N3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)-2H-1,2,4-triazol-3-ylcarbamoyl)phenyl)isophthalamide | 12 mg, 10% | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C(NC=2NN=C(N2)C2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCOCC1 | C36H39F3N8O4
